US03961062
1-(2-Methylimidazole-1-yl)-4-phenylisoquinoline-hydrochloride
Reaction analogous to 8d., from 1-chloro-4-phenylisoquinoline and 2-methylimidazole, M.p. 243° to 244° C.

reactant | 1-chloro-4-phenylisoquinoline | ClC1=NC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
product | 1-(2-Methylimidazole-1-yl)-4-phenylisoquinoline-hydrochloride | Cl.CC=1N(C=CN1)C1=NC=C(C2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C19H15N3.ClH/c1-14-20-11-12-22(14)19-17-10-6-5-9-16(17)18(13-21-19)15-7-3-2-4-8-15;/h2-13H,1H3;1H
